US04521599
To 16.6 g (0.597M) of methylthiopseudourea sulfate is added 66 ml of H2O+13.0 g of KOH. With vigorous stirring, 20 g (71.9 mM) of ethyl-m-fluorobenzoylacetate is added and the reaction mixture is allowed to stir, at ambient temperature, for 18 hours. The solids are filtered and washed well with H2O followed by diethylether. The crude title compound is dried at 60° C. in a vacuum over to yield 16.0 g (>100 percent). To 6.8 g of crude powdered oxazine is added 100 ml of H2O and heated to 70° C., cooled, filtered and washed solids. Yield of 2-amino-6-m-fluorophenyl-1,3-oxazine-4-one of 3.60 g (53 percent of rec. yield).

reactant | methylthiopseudourea sulfate | 0.597M, 16.6 g | S(=O)(=O)(O)O.CNC(S)=N
reactant | KOH | [OH-].[K+]
reactant | ethyl-m-fluorobenzoylacetate | 71.9 mM, 20 g | C(C)OC(CC(C1=CC(=CC=C1)F)=O)=O | C11H11FO3
reactant | oxazine | O1NC=CC=C1 | C4H5NO
solvent | H2O | 100 ml | O | H2O
solvent | H2O | 66 ml, 13.0 g | O | H2O
product | 2-amino-6-m-fluorophenyl-1,3-oxazine-4-one | NC=1OC(=CC(N1)=O)C1=CC(=CC=C1)F | C10H7FN2O2
